US04958041
Under an inert gas, 24.3 g magnesium chips (1.0 mol) were combined with about 10 ml methyl-tert-butylether, an iodine crystal and 3.6 g cyclohexylchloride (0.03 mol). To start the reaction, a solution of 152.0 g isobutyltrimethoxysilane (0.85 mol) and 115.0 g cyclohexylchloride (0.97 mol) in 130 ml methyl-tert-butylether was added dropwise, with stirring, to the first mixture at a rate to maintain a moderate reflux. At the end of this addition, the reaction was allowed to reflux for two more hours. After cooling the reaction mixture, 4.8 g methanol (0.15 mol) was added, stirred for a few minutes and then the precipitate was removed by filtration. The filter cake was washed with several portions of methyl-tert-butylether. The solvent was evaporated from the combined filtrates by water vacuum. The remaining residue consisted of 192.5 g (98.4% of the theoretical yield) isobutylcyclohexyldimethoxysilane which had a purity of 98% according to GC. Isobutyldicyclohexylmethoxysilane was not detected by GC.

reactant | magnesium | 24.3 g | [Mg] | Mg
reactant | iodine | II | I2
reactant | cyclohexylchloride | 0.03 mol, 3.6 g | C1(CCCCC1)Cl | C6H11Cl
reactant | isobutyltrimethoxysilane | 0.85 mol, 152.0 g | C(C(C)C)[Si](OC)(OC)OC | C7H18O3Si
reactant | cyclohexylchloride | 0.97 mol, 115.0 g | C1(CCCCC1)Cl | C6H11Cl
reactant | methanol | 0.15 mol, 4.8 g | CO | CH4O
solvent | methyl-tert-butylether | 130 ml | COC(C)(C)C | C5H12O
solvent | methyl-tert-butylether | about 10 ml | COC(C)(C)C | C5H12O
product | isobutylcyclohexyldimethoxysilane | C(C(C)C)[Si](OC)(OC)C1CCCCC1 | C12H26O2Si
